US06657060B2
In analogy to example 12c), by heating (E)-6-methyl-2-(2-thiophen-2-yl-vinyl)-pyrimidin-4-ol (0.38 g, 1.74 mmol) in POCl3 (3.19 ml, 34.8 mmol) at 130° C. for 4.5 h was obtained (E)-4-chloro-6-methyl-2-(2-thiophen-2-yl-vinyl)-pyrimidine (0.236 g, 57%) as a light yellow solid. EI mass spectrum, m/e: 236 (M calculated for C11H9ClN2S: 236).

reactant | (E)-6-methyl-2-(2-thiophen-2-yl-vinyl)-pyrimidin-4-ol | 1.74 mmol, 0.38 g | CC1=CC(=NC(=N1)\C=C\C=1SC=CC1)O | C11H10N2OS
reactant | POCl3 | 34.8 mmol, 3.19 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | (E)-4-chloro-6-methyl-2-(2-thiophen-2-yl-vinyl)-pyrimidine | 0.236 g, 57% | ClC1=NC(=NC(=C1)C)\C=C\C=1SC=CC1 | C11H9ClN2S
